US09284323B2
Preparation of 2-bromo-3-methyl-6-(methylsulfonyl)naphthalen-1-ol:
To a solution of 3-methyl-6-(methylsulfonyl)-3,4-dihydronaphthalen-1(2H)-one (7.64 g, 32.06 mmol) in dichloromethane (200 mL) at room temperature was added a solution of bromine (3.38 mL, 65.72 mmol) in dichloromethane (5 mL) over 30 minutes to give an orange mixture. The reaction mixture was stirred at room temperature for 2 hours, then more bromine (0.3 mL) was added and stirring continued for 1 hour. The reaction mixture was concentrated and co-evaporated with dichloromethane and dried under house vacuum. The resulting off-white residue was suspended in acetonitrile and cooled to −40° C. 1,8-Diazabicyclo[5.4.0]dunde-7-ene (7.19 mL, 48.09 mmol) was added over 5 minutes and the reaction mixture was warmed to room temperature overnight. The reaction mixture was concentrated, diluted with ethyl acetate, washed with dilute acetic acid solution, brine and dried (MgSO4) and filtered. Concentration and purification by flash column chromatography (silica gel, 20-60% ethyl acetate/hexanes) gave an impure product. Repurification by flash column chromatography (silica gel, 40% ethyl acetate/hexanes) gave the desired product. LCMS-ESI+ (m/z): [M−H]− calcd for C12H10BrO3S: 314.2. Found: 313.2, 315.1.

reactant | 3-methyl-6-(methylsulfonyl)-3,4-dihydronaphthalen-1(2H)-one | 32.06 mmol, 7.64 g | CC1CC(C2=CC=C(C=C2C1)S(=O)(=O)C)=O | C12H14O3S
reactant | bromine | 65.72 mmol, 3.38 mL | BrBr | Br2
reactant | bromine | 0.3 mL | BrBr | Br2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-bromo-3-methyl-6-(methylsulfonyl)naphthalen-1-ol | BrC1=C(C2=CC=C(C=C2C=C1C)S(=O)(=O)C)O | C12H11BrO3S
